US06090833
6-Chloro-2-ethyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide
This compound is prepared analogously to the process described in Example 1c using 2-bromo-5-chloroindan-1-one and thiopropionamide; melting point: 230-240° C. (dec.).

reactant | 2-bromo-5-chloroindan-1-one | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | thiopropionamide | C(CC)(=S)N | C3H7NS
product | 6-Chloro-2-ethyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.ClC1=CC=2CC3C(N=C(S3)CC)(C2C=C1)O | InChI=1S/C12H12ClNOS.BrH/c1-2-11-14-12(15)9-4-3-8(13)5-7(9)6-10(12)16-11;/h3-5,10,15H,2,6H2,1H3;1H
